US03976650
3-Hydroxymethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, methyl ester
Methyl 6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydroquinoline-1-carboxylate (13.8 g.) in 140 ml. of benzene containing 19 ml. of ethyl formate is added to sodium ethoxide freshly prepared from 4.8 g. of sodium hydride and 6 ml. of ethanol over a period of 45 min. After stirring at room temperature for 4 hrs. the reaction mixture is poured onto 250 ml. of ice-water. The aqueous layer is retained and the organic layer washed with 1N aqueous sodium hydroxide. The washings are combined with the aqueous extracts and backwashed with benzene. The aqueous layer is then made acid with 12N hydrochloric acid and extracted with chloroform. The organic phase is separated, dried over r magnesium sulfate and evaporated in vacuo to dryness. The residue is employed in subsequent reactions without further purification.

reactant | Methyl 6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydroquinoline-1-carboxylate | 13.8 g | COC=1C=C2C(CC(N(C2=CC1OC)C(=O)OC)C)=O | C14H17NO5
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium hydride | [H-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | benzene | 19 ml | C1=CC=CC=C1 | C6H6
product | 3-Hydroxymethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, methyl ester | OC=C1C(N(C2=CC(=C(C=C2C1=O)OC)OC)C(=O)OC)C | C15H17NO6
